US04254116
5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[5-(piperidino)valeryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine and δ-piperidinovaleric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C=2C1=CC=NC2)C | C23H31NO2
reactant | δ-piperidinovaleric acid hydrochloride | Cl.N1(CCCCC1)CCCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[5-(piperidino)valeryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C33H48N2O3.ClH/c1-6-7-9-14-24(2)25(3)26-21-29(37-31(36)15-10-13-20-35-18-11-8-12-19-35)32-27-23-34-17-16-28(27)33(4,5)38-30(32)22-26;/h16-17,21-25H,6-15,18-20H2,1-5H3;1H
